US09227923B2
Tert-butyl (5-{[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-carbamoyl}-2,3-dihydro-1H-inden-1-yl)carbamate (1.3 g) was dissolved in methylene chloride (15 ml), trifluoroacetic acid (1.5 g) was added thereto and then stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure. Water and potassium carbonate were added to neutralize the residue and extracted twice with ethyl acetate. The organic phases were combined, washed with a saturated sodium bicarbonate aqueous solution and water sequentially, and then dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off under reduced pressure to obtain 1-amino-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]indane-5-carboxamide as a crude product (0.84 g). The crude product was used for the next step without further purification.

reactant | Tert-butyl (5-{[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-carbamoyl}-2,3-dihydro-1H-inden-1-yl)carbamate | 1.3 g | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(=O)C=1C=C2CCC(C2=CC1)NC(OC(C)(C)C)=O | C27H29F7N2O3
reactant | trifluoroacetic acid | 1.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-amino-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]indane-5-carboxamide | NC1CCC2=CC(=CC=C12)C(=O)NC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)F)CC | C22H21F7N2O
